US07141569B2
To a suspension of 3-[2-(cyclopentylamino)-4-pyrimidinyl]-2-(4-fluorophenyl)-pyrazolo[1,5-α]pyridine-6-carboxylic acid hydrochloride (60 mg, 0.13 mmol) in tertbutanol was added triethylamine (39 μL, 0.28 mmol) and diphenylphosphoryl azide (34 μL, 0.16 mmol). The reaction mixture was heated at reflux for 2.5 hours. The reaction mixture was cooled to room temperature and diluted with ethyl acetate. The organic layer was washed with 5% aqueous citric acid solution, water, saturated aqueous sodium bicarbonate solution, and brine. The organic layer was dried over sodium sulfate. Filtration and concentration followed by flash chromatography (39:1 dichloromethane:methanol) provided tert-butyl 3-[2-(cyclopentylamino)-4-pyrimidinyl]-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-6-ylcarbamate (35 mg, 540/%) as a light green oil. Rf 0.32 (29:1 dichloromethane:methanol); 1H NMR (400 MHz, CDCl3) δ 8.95 (br, 1H), 8.35 (d, 1H), 8.01 (br, 1H), 7.60 (m, 2H), 7.19 (d, 1H), 7.12 (t, 2H), 6.51 (s, 1H), 6.31 (d, 1H), 4.34 (m, 1H), 2.07 (m, 2H), 1.90–1.52 (m, 6H), 1.53 (s, 9H); MS m/z 489 (M+1).

reactant | 3-[2-(cyclopentylamino)-4-pyrimidinyl]-2-(4-fluorophenyl)-pyrazolo[1,5-α]pyridine-6-carboxylic acid hydrochloride | 0.13 mmol, 60 mg | Cl.C1(CCCC1)NC1=NC=CC(=N1)C=1C(=NN2C1C=CC(=C2)C(=O)O)C2=CC=C(C=C2)F
reactant | triethylamine | 0.28 mmol, 39 μL | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 0.16 mmol, 34 μL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | tertbutanol | C(C)(C)(C)O | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl 3-[2-(cyclopentylamino)-4-pyrimidinyl]-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-6-ylcarbamate | 35 mg | C1(CCCC1)NC1=NC=CC(=N1)C=1C(=NN2C1C=CC(=C2)NC(OC(C)(C)C)=O)C2=CC=C(C=C2)F | C27H29FN6O2
